US08048881B2
4-{(S)-2-[(6-cyclopentyloxy-2-phenyl-pyrimidine-4-carbonyl)-amino]-4-hydroxy-butyryl}-piperazine-1-carboxylic acid ethyl ester
The compounds of Examples 12 and 13 were prepared using a method analogous to that of Example 11, starting from 4-{(S)-4-carboxy-2-[(6-cyclopentyloxy-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester and 4-{(S)-5-carboxy-2-[(6-cyclopentyloxy-2-phenyl-pyrimidine-4-carbonyl)-amino]-pentanoyl}-piperazine-1-carboxylic acid ethyl ester respectively.

reactant | 4-{(S)-4-carboxy-2-[(6-cyclopentyloxy-2-phenyl-pyrimidine-4-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)O)NC(=O)C1=NC(=NC(=C1)OC1CCCC1)C1=CC=CC=C1)=O | C28H35N5O7
reactant | 4-{(S)-5-carboxy-2-[(6-cyclopentyloxy-2-phenyl-pyrimidine-4-carbonyl)-amino]-pentanoyl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCCC(=O)O)NC(=O)C1=NC(=NC(=C1)OC1CCCC1)C1=CC=CC=C1)=O | C29H37N5O7
product | 4-{(S)-2-[(6-cyclopentyloxy-2-phenyl-pyrimidine-4-carbonyl)-amino]-4-hydroxy-butyryl}-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCO)NC(=O)C1=NC(=NC(=C1)OC1CCCC1)C1=CC=CC=C1)=O | C27H35N5O6
